US04457866
H-D-Phe-Pro-Arg-Phe-pNa
450 mg (0.44 mmole) of Boc-D-Phe-Pro-Arg-Phe-pNa.HBr are dissolved in 4 ml of trifluoroacetic acid, with the addition of 0.1 ml of anisole, and the solution is stirred at room temperature for 45 minutes. The product is precipitated with ether, centrifuged off and triturated with ether and centrifuged off again several times. The dried substance is triturated with NaHCO3 solution, the mixture is extracted with n-butanol, the organic phase is dried with K2CO3 and filtered and the filtrate is evaporated to dryness. The solid residue is triturated with ether and centrifuged off.

reactant | Boc-D-Phe-Pro-Arg-Phe | 0.44 mmole, 450 mg | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1)C(=O)OC(C)(C)C | C34H47N7O7
reactant | HBr | Br | BrH
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 0.1 ml | C1(=CC=CC=C1)OC | C7H8O
product | H-D-Phe-Pro-Arg-Phe | N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1 | C29H39N7O5
